US06936608B2
a) 2-Amino-3,5-difluorobenzonitrile
A mixture of 2,3,5-trifluorobenzonitrile (25.0 g, 159 mmol) and ethanol (300 ml) pre-saturated with ammonia gas was heated at 120° C. in an autoclave for 8 h. The mixture was allowed to cool to ambient temperature and evaporated to dryness. The residue was partitioned between water (1 l) and ethyl acetate (1 l). The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by flash chromatography (silica gel, CH2Cl2) to afford 3.7 g (15%) of the title compound as a cream solid: 1H NMR (360 MHz, CDCl3) δ 4.08 (2H, s), 6.60-6.64 (1H, m), 6.67-6.72 (1H, m).

reactant | 2,3,5-trifluorobenzonitrile | 159 mmol, 25.0 g | FC1=C(C#N)C=C(C=C1F)F | C7H2F3N
reactant | ammonia | N | H3N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-Amino-3,5-difluorobenzonitrile | 3.7 g, 15% | NC1=C(C#N)C=C(C=C1F)F | C7H4F2N2
